US05210097
13 mg of xanthocillin X monomethyl ether was dissolved in 2 ml of DMF and 40 mg of potassium carbonate was added thereto. Further, 50 μl of n-hexyl bromide was added thereto and the mixture thus formed was extracted with 30 ml portions of ethyl acetate thrice. The extracts were combined, successively washed with water and a saturated aqueous solution of sodium chloride and dried over sodium sulfate. The sodium sulfate was filtered off and the solvent was distilled from the filtrate. Thus 15 mg of 1-(4'-n-hexyloxyphenyl)-4-(4'-methoxyphenyl)-2,3-diisocyano-1,3-butadiene was obtained in the form of a brown solid. Yield: 94%.

reactant | xanthocillin X monomethyl ether | 13 mg | COC1=CC=C(C=C1)/C=C(/C(=C/C2=CC=C(C=C2)O)/[N+]#[C-])\[N+]#[C-] | C19H14N2O2
reactant | potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | n-hexyl bromide | 50 μl | C(CCCCC)Br | C6H13Br
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-(4'-n-hexyloxyphenyl)-4-(4'-methoxyphenyl)-2,3-diisocyano-1,3-butadiene | 15 mg, Yield: 94% | C(CCCCC)OC1=CC=C(C=C1)C=C(C(=CC1=CC=C(C=C1)OC)[N+]#[C-])[N+]#[C-] | C25H26N2O2
